### PR TITLE
feat: BitVec.shiftLeft_neg_eq_neg_shiftLeft

### PR DESCRIPTION
**Pull request by bollu**
This PR shows that negation commutes with left shift, which is the Bitwuzla rewrite [NORM_BV_SHL_NEG](https://github.com/bitwuzla/bitwuzla/blob/e09c50818b798f990bd84bf61174553fef46d561/src/rewrite/rewrites_bv_norm.cpp#L142-L148).

```lean
theorem shiftLeft_neg_eq_neg_shiftLeft {x : BitVec w} {y : Nat} :
    (-x) <<< y = - (x <<< y)
```

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -4192,6 +4192,11 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+/-- shiftLeft commutes with negation. -/
+theorem shiftLeft_neg_eq_neg_shiftLeft {x : BitVec w} {y : Nat} :
+    (-x) <<< y = - (x <<< y) := by
+  rw [shiftLeft_eq_mul_twoPow, shiftLeft_eq_mul_twoPow, @BitVec.neg_mul]
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4199]:
```suggestion
  rw [shiftLeft_eq_mul_twoPow, shiftLeft_eq_mul_twoPow, BitVec.neg_mul]

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -4192,6 +4192,11 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+/-- shiftLeft commutes with negation. -/
+theorem shiftLeft_neg_eq_neg_shiftLeft {x : BitVec w} {y : Nat} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4196]:
```suggestion
theorem shiftLeft_neg {x : BitVec w} {y : Nat} :
```

I don't think we need a comment here. Also, do we need the RHS?

**Review by tobiasgrosser — APPROVED** [review]
LGTM.

Thank you @bollu
